US07786145B2
Into a 200 mL round bottomed flask are added 6-amino-1,3-benzothiazole-2-thiol (2.26 g, 12.4 mmol), diphenylcyanocarbonimidate (4.43 g, 18.6 mmol) and acetonitrile (50 mL). The reaction mixture is refluxed under nitrogen atmosphere for 16 hrs. The precipitates are collected by filtration and washed with acetonitrile (15 mL). Recrystalization of the solid from ethanol affords the intermediate of N-cyano-N′-(2-mercapto-benzothiazol-6-yl)carbamimidic acid phenyl ester as white solid (1.2 g, 30%). 1H NMR (DMSO-d6) δ 7.20-7.42 (m, 8H), 7.78 (s, 1H), 10.88 (b, 1H); ESIMS: m/z 324.8 (M−H).

reactant | 6-amino-1,3-benzothiazole-2-thiol | 12.4 mmol, 2.26 g | NC1=CC2=C(N=C(S2)S)C=C1 | C7H6N2S2
reactant | diphenylcyanocarbonimidate | 18.6 mmol, 4.43 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-cyano-N′-(2-mercapto-benzothiazol-6-yl)carbamimidic acid phenyl ester | 1.2 g, 30% | C1(=CC=CC=C1)OC(NC#N)=NC1=CC2=C(N=C(S2)S)C=C1 | C15H10N4OS2
